US08389524B2
2-({4-[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride
Racemic 2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (for a preparation see Example 16A(j)) (50 mg, 0.166 mmol) was stirred in 9:1 v:v chloroform:methanol (2 ml) with 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde (for a synthesis see WO2004058144 Example 2(c) or WO03/087098 Example 19(d)) (28 mg, 1.0 equivalent) at room temperature for 30 minutes, then the mixture was treated with sodium triacetoxyborohydride (105 mg, 3.0 equivalents) with vigorous stirring. After a further 25 minutes stirring, the reaction was quenched by addition of saturated aqueous sodium hydrogen carbonate (2 ml), diluted with dichloromethane and stirred vigorously at room temperature for 20 minutes. The organic phase was separated (hydrophobic fit) and evaporated under reduced pressure to give an orange gum; this was purified by column chromatography on silica (eluting with 0-12% (2M NH3 in MeOH) in DCM). Appropriate fractions were combined and evaporated under reduced pressure to give the free base of the title compound as a cream amorphous solid (30 mg, 40%).

reactant | Racemic 2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | NC1CCN(CC1)CC1CN2C(C=CC=3N=CC(N1C23)=O)=O | C15H19N5O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | sodium triacetoxyborohydride | 105 mg, 3.0 equivalents | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 2-({4-[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride | 30 mg, 40% | Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CC2CN1C(C=CC=3N=CC(N2C13)=O)=O | InChI=1S/C23H26N6O4.ClH/c30-21-2-1-18-23-28(21)14-17(29(23)22(31)12-26-18)13-27-5-3-15(4-6-27)24-10-16-9-19-20(11-25-16)33-8-7-32-19;/h1-2,9,11-12,15,17,24H,3-8,10,13-14H2;1H
